US07582761B2
(a) 1-(2,6-Dichlorophenyl)piperazine
A mixture of 2,6-dichlorophenylaniline (810 mg, 5 mmol, Aldrich) and bis(2-chloroethyl)amine hydrochloride (823 mg, 5 mmol, Aldrich) was subjected to microwave irradiation at 200° C. for 10 min. The reaction mixture was allowed to cool to room temperature then treated with 5N NaOH (5 mL) and extracted with EtOAc (2×20 mL). The combined organic extracts were washed with brine (5 mL), dried over Na2SO4 and filtered. The solvent was removed in vacuo and the residue was purified by silica gel chromatography, eluting with 10% MeOH/CH2Cl2+1% ammonia (30% in water) to give the title compound. MS (ESI, pos. ion) m/z: 231 (M+1).

reactant | 2,6-dichlorophenylaniline | 5 mmol, 810 mg | ClC1=C(C(=CC=C1)Cl)NC1=CC=CC=C1 | C12H9Cl2N
reactant | bis(2-chloroethyl)amine hydrochloride | 5 mmol, 823 mg | Cl.ClCCNCCCl
reactant | NaOH | 5N, 5 mL | [OH-].[Na+]
product | 1-(2,6-Dichlorophenyl)piperazine | ClC1=C(C(=CC=C1)Cl)N1CCNCC1 | C10H12Cl2N2
